US04994486
1-Aminomethyl-5-methoxy-3-phenyl-3,4-dihydronaphthalene hydrochloride (0.5 g, 1.7 mmol), from Step 2, was suspended in 16 mL of methylene chloride and boron tribromide (5.8 mL of a 1 M solution of BBr3 in methylene chloride) was added dropwise while the reaction mixture was being cooled (to -78° C.) in a dry ice/acetone bath. The reaction mixture was warmed to 0° C. and stirred for 0.5 h, then again cooled to -78° C. in a dry ice/acetone bath. Methanol (2.5 mL) was added dropwise to the reaction mixture, which was then allowed to warm to ambient temperature and concentrated in vacuo. Methanol was added to the residue and the solution was reconcentrated. The residue was dissolved in a small amount of methanol and chromatographed on a silica gel column eluted with ethyl acetate:formic acid:water (18:1:1, v/v/v) to give the formic acid salt of 1-aminomethyl-5-hydroxy-3-phenyl-3,4-dihydronaphthalene, m.p. 102°-104° C.; 1H NMR(d 6-DMSO) δ2.68 (dd, 1H), 3.06 (dd, 1H), 3.6-3.8 (m, 1H), 3.77 (s, 2H), 6.1 (m, 1H), 6.77 (d, 1H), 6.83 (d, 1H), 7.04 (t, 1H), 7.15-7.35 (m, 5H), 8.36 (s, 1H).

reactant | 1-Aminomethyl-5-methoxy-3-phenyl-3,4-dihydronaphthalene hydrochloride | 1.7 mmol, 0.5 g | Cl.NCC1=CC(CC2=C(C=CC=C12)OC)C1=CC=CC=C1
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | Methanol | 2.5 mL | CO | CH4O
solvent | methylene chloride | 16 mL | C(Cl)Cl | CH2Cl2
product | 1-aminomethyl-5-hydroxy-3-phenyl-3,4-dihydronaphthalene | NCC1=CC(CC2=C(C=CC=C12)O)C1=CC=CC=C1 | C17H17NO
